US05209868
A mixture of 0.47 mol of ethyl 4-trifluoromethylbenzoate (prepared from 4-trifluoromethylbenzoyl chloride, ethanol and pyridine), 1000 ml of ethanol and 20 g of rhodium/activated charcoal (5%) is hydrogenated for 5 hours under a pressure of 5 bar and at a temperature of 60° C. The ethyl 4-trifluoromethylcyclohexanecarboxylate (cis/trans =87%/13%) obtained after removal of the catalyst by filtration and removal of the solvent is, without prior purification, suspended in 300 ml of water and treated with 70 g of 30% sodium hydroxide solution, and the mixture is briefly heated to boiling and stirred at room temperature for 18 hours. Acidification using hydrochloric acid gives the carboxylic acid as a cis/trans mixture.

reactant | ethyl 4-trifluoromethylbenzoate | 0.47 mol | FC(C1=CC=C(C(=O)OCC)C=C1)(F)F | C10H9F3O2
catalyst | rhodium | 20 g | [Rh] | Rh
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | ethyl 4-trifluoromethylcyclohexanecarboxylate | FC(C1CCC(CC1)C(=O)OCC)(F)F | C10H15F3O2
